US04659810
(5) Preparation of α-D-mannopyranosyl azide=compound 4
12 g of α-mannosyl fluoride were heated with 4.7 g of sodium azide in 100 ml of acetonitrile for 80 hours at the reflux temperature. After the mixture had been worked up as in Example 1, 10.3 g of a syrup containing 92% of α-azidomannose were obtained.

reactant | α-mannosyl fluoride | 12 g | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)F | C6H11FO5
reactant | sodium azide | 4.7 g | [N-]=[N+]=[N-].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | α-D-mannopyranosyl azide | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)N=[N+]=[N-] | C6H11N3O5
